US07060827B2
In a manner similar to the preparation of N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine, 2-chloro-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-4-pyrimidineamine and 4-(tetrahydro-(1H)-pyrrol-1-ylsulfonyl)aniline were reacted to yield N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-[4-(tetrahydro-(1H)-pyrrol-1-ylsulfonyl)phenyl]-2,4-pyrimidinediamine. 1H NMR (DMSO-d6): δ 10.11 (bs, 1H), 9.76 (bs, 1H), 8.19 (d, 1H, J=3.9 Hz), 7.82 (d, 2H, J=8.7 Hz), 7.62 (d, 2H, J=8.7 Hz), 7.27 (d, 1H, J=2.4 Hz), 7.08 (dd, 1H, J=2.4 and 8.7 Hz), 6.85 (d, 1H, J=8.7 Hz), 4.23 (s, 4H), 3.10–3.06 (m, 4H), 1.64–1.58 (m, 4H); LCMS: ret. time: 22.68 min.; purity: 93%; MS (m/e): 472 (MH+).

reactant | N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine | C1OC=2C=C(C=CC2OC1)NC1=NC(=NC=C1F)NC1=CC(=CC=C1)O | C18H15FN4O3
reactant | 2-chloro-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC1=CC2=C(C=C1)OCCO2)F | C12H9ClFN3O2
reactant | 4-(tetrahydro-(1H)-pyrrol-1-ylsulfonyl)aniline | N1(CCCC1)S(=O)(=O)C1=CC=C(N)C=C1 | C10H14N2O2S
product | N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-[4-(tetrahydro-(1H)-pyrrol-1-ylsulfonyl)phenyl]-2,4-pyrimidinediamine | C1OC=2C=C(C=CC2OC1)NC1=NC(=NC=C1F)NC1=CC=C(C=C1)S(=O)(=O)N1CCCC1 | C22H22FN5O4S
